US07576215B2
N-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}-4-(TRIFLUOROMETHYL)BENZENESULFONAMIDE
The title compound was prepared from [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 4-(trifluoromethyl)benzenesulfonyl chloride following the procedure of Example 61 as an off-white solid: MS (EI) m/z 601.1 (M+H)+; 1H NMR (DMSO-d6): δ 7.00-7.10 (m, 3H), 7.24 (d, J=8.6 Hz, 1H), 7.33 (t, J=7.6 Hz, 2H), 7.50-7.60 (m, 3H), 7.70 (d, J=8.5 Hz, 1H), 7.75 (t, J=8.4 Hz, 1H), 7.87 (d, J=7.4 Hz, 2H), 7.96 (d, J=7.4 Hz, 2H), 8.34 (d, J=6.2 Hz, 1H), 9.11 (s, 1H), 10.65 (s, 1H).

reactant | [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | 4-(trifluoromethyl)benzenesulfonyl chloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | N-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}-4-(TRIFLUOROMETHYL)BENZENESULFONAMIDE | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C30H18F6N2O3S
